US06492394B1
To a mixture of 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3-methylbutyric acid benzyl ester (4.5 g, 10.72 mmol), 3,4-(methylenedioxy)phenylmethanol (2.04 g, 13.41 mmol), and tributylphosphine (3.35 mL, 13.4 mmol) in dry benzene (60 mL) cooled in an ice bath was added 1,1′-(azodicarbonyl)dipiperidine (3.38 g, 13.4 mmol). The reaction mixture was stirred overnight to room temperature and then flash chromatographed on a silica gel column (5-10% ethyl acetate/hexanes) to give 2(R)-[(3,4-methylenedioxy-benzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester (4.8 g) as a white solid.

reactant | 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3-methylbutyric acid benzyl ester | 10.72 mmol, 4.5 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)NS(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O | C22H29NO5S
reactant | 3,4-(methylenedioxy)phenylmethanol | 13.41 mmol, 2.04 g | C1OC2=C(O1)C=C(C=C2)CO | C8H8O3
reactant | tributylphosphine | 13.4 mmol, 3.35 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 13.4 mmol, 3.38 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | 2(R)-[(3,4-methylenedioxy-benzyl)-(4-methoxy-2,3,6-trimethylbenzenesulfonyl)amino]-3-methylbutyric acid benzyl ester | 4.8 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)N(S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)CC1=CC2=C(C=C1)OCO2)=O | C30H35NO7S
